US04808762
A stirred solution of 20.0 grams (0.105 mole) of 4-trifluoromethylbenzoic acid and four drops of dimethylformamide in 300 mL of methylene chloride was cooled to 0°-10° C., and 14.7 grams (0.116 mole) of oxalyl chloride was added. Upon completion of addition, the reaction mixture was allowed to warm to ambient temperature where it stirred for 18 hours. The reaction mixture was then concentrated under reduced pressure, yielding 21.9 grams of 4-trifluoromethylbenzoyl chloride as a semi-solid. The reaction was repeated.

reactant | 4-trifluoromethylbenzoic acid | 0.105 mole, 20.0 grams | FC(C1=CC=C(C(=O)O)C=C1)(F)F | C8H5F3O2
reactant | oxalyl chloride | 0.116 mole, 14.7 grams | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | dimethylformamide | four drops | CN(C=O)C | C3H7NO
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | 4-trifluoromethylbenzoyl chloride | 21.9 grams | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
